US06919322B2
Preparation of 2,4-Dichloro-5-(phosphonomethoxymethyl)thiazole (Compound No. 14.01)
2,4-Dichloro-5-(diethylphosphonomethoxymethyl)thiazole was deesterified with TMSBr as described in Step D, Example 1, to provide the title compound (no. 14.01) as a solid. HPLC Rt=4.36 min; negative ion electrospray MS M−1 found: 276/278.

reactant | 2,4-Dichloro-5-(diethylphosphonomethoxymethyl)thiazole | ClC=1SC(=C(N1)Cl)COCP(=O)(OCC)OCC | C9H14Cl2NO4PS
reactant | TMSBr | C[Si](C)(C)Br | C3H9BrSi
product | 2,4-Dichloro-5-(phosphonomethoxymethyl)thiazole | ClC=1SC(=C(N1)Cl)COCP(=O)(O)O | C5H6Cl2NO4PS
